US07700641B2
Synthesis of 1′-(diphenylmethyl)-5-hydroxyspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one
A mixture of 1′-(diphenylmethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one (4.50 g, 8.50 mmol), hydrogen peroxide (4.86 mL, 30% solution, 42.5 mmol), sodium hydroxide (16.38 mL, 10% solution, 40.82 mmol) in methanol was stirred at 0° C. for 30 min and ambient temperature for 16 h. The reaction mixture was quenched with sodium bisulfite. The pH of the reaction mixture was adjusted to 4 using 14% hydrochloric acid. The mixture was extracted with ethyl acetate (3×250 mL). The combined organic layers was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo. The residue was triturated with hexane (20.0 mL), followed by ether (15.0 mL) to give the title compound (3.20 g, 90%) as a white solid: 1H NMR (300 MHz, CDCl3) δ 7.45-7.38 (m, 10H), 7.13 (dd, 1H), 7.07-6.91 (m, 3H), 6.79 (d, 1H), 6.63 (dd, 1H), 6.50 (d, 1H), 6.12 (d, 1H), 4.96 (d, 1H), 4.69 (d, 1H); MS (ES+) m/z 420.23 (M+1).

reactant | 1′-(diphenylmethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | 8.50 mmol, 4.50 g | C1(=CC=CC=C1)C(N1C(C2(C3=CC=CC=C13)COC1=C2C=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C1=CC=CC=C1 | C34H32BNO4
reactant | hydrogen peroxide | 42.5 mmol, 4.86 mL | OO | H2O2
reactant | sodium hydroxide | 40.82 mmol, 16.38 mL | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 1′-(diphenylmethyl)-5-hydroxyspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | 3.20 g, 90% | C1(=CC=CC=C1)C(N1C(C2(C3=CC=CC=C13)COC1=C2C=C(C=C1)O)=O)C1=CC=CC=C1 | C28H21NO3
